US09085555B2
6-Bromo-3-isocyanato-indole-1-carboxylic acid amide
was prepared from 6-bromo-1H-indole-3-carbaldehyde using the protocol described for steps C, D and E in scheme A4 for the preparation of 5-allyloxy-3-isocyanato-indole-1-carboxylic acid amide.

reactant | 6-bromo-1H-indole-3-carbaldehyde | BrC1=CC=C2C(=CNC2=C1)C=O | C9H6BrNO
reactant | 5-allyloxy-3-isocyanato-indole-1-carboxylic acid amide | C(C=C)OC=1C=C2C(=CN(C2=CC1)C(=O)N)N=C=O | C13H11N3O3
product | 6-Bromo-3-isocyanato-indole-1-carboxylic acid amide | BrC1=CC=C2C(=CN(C2=C1)C(=O)N)N=C=O | C10H6BrN3O2
